US06028074
4-[(4,5,6,7-tetrahydro-5-methyl-7-{2-methylpropyl}-2-{1-naphthalenylmethyl}-4,6-dioxo-2H-pyrazolo[3,4-d]pyrimidin-3-yl)thio]butanoic Acid
Lithium hydroxide monohydrate (80 mg) was added to a solution of methyl 4-[(4,5,6,7-tetrahydro-5-methyl-7-{2-methylpropyl}-2-{1-naphthalenylmethyl}-4,6-dioxo-2H-pyrazolo[3,4-d]pyrimidin-3-yl)thio]butanoic acid (250 mg) in tetrahydrofuran (20 ml) and water was then added to give a homogeneous solution. After 18 hours the reaction mixture was partitioned between ether and 2 M sodium hydroxide. The aqueous phase was acidified with concentrated hydrochloric acid and extracted with ethyl acetate which was then dried over magnesium sulfate. The organic phase was concentrated in vacuo and recrystallised from cyclohexane:ethyl acetate to give the title compound (130 mg).

reactant | Lithium hydroxide monohydrate | 80 mg | O.[OH-].[Li+]
reactant | methyl 4-[(4,5,6,7-tetrahydro-5-methyl-7-{2-methylpropyl}-2-{1-naphthalenylmethyl}-4,6-dioxo-2H-pyrazolo[3,4-d]pyrimidin-3-yl)thio]butanoic acid | 250 mg | CC(C(=O)O)CCSC=1N(N=C2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=CC=CC1=CC=CC=C21 | C26H30N4O4S
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-[(4,5,6,7-tetrahydro-5-methyl-7-{2-methylpropyl}-2-{1-naphthalenylmethyl}-4,6-dioxo-2H-pyrazolo[3,4-d]pyrimidin-3-yl)thio]butanoic Acid | 130 mg | CN1C(N(C=2C(C1=O)=C(N(N2)CC2=CC=CC1=CC=CC=C21)SCCCC(=O)O)CC(C)C)=O | C25H28N4O4S
